US09353066B2
A suspension of 3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carbonitrile (354 mg, 1.00 mmol), zinc bromide (225 mg, 1.00 mmol), and sodium azide (68.3 mg, 1.05 mmol) in water (2 mL) was heated to 115° C. for 24 hours. The reaction mixture was then diluted with ethyl acetate (15 mL) and aqueous 2 M hydrochloric acid (2.25 mL) to give two layers. The layers were separated and the aqueous layer was extracted with ethyl acetate (15 mL). The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified via reverse phase HPLC to yield N-[5-methyl-3′-(1H-tetrazol-5-yl)biphenyl-3-yl]-4-(trifluoromethyl)pyrimidin-2-amine MS ESI calc'd. for C19H15F3N7 [M+H]+ 398, found 398. 1H NMR (500 MHz, DMSO-d6) δ 10.28 (s, 1H), 8.83 (d, J=4.9 Hz, 1H), 8.30 (s, 1H), 8.02 (d, J=7.8 Hz, 1H), 7.99 (s, 1H), 7.82 (d, J=7.9 Hz, 1H), 7.70 (t, J=7.8 Hz, 1H), 7.59 (s, 1H), 7.27 (d, J=4.9 Hz, 1H), 7.24 (s, 1H), 2.38 (s, 3H).

reactant | 3′-methyl-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-3-carbonitrile | 1.00 mmol, 354 mg | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC(=CC=C1)C#N | C19H13F3N4
reactant | sodium azide | 1.05 mmol, 68.3 mg | [N-]=[N+]=[N-].[Na+]
solvent | water | 2 mL | O | H2O
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 2 M, 2.25 mL | Cl | ClH
catalyst | zinc bromide | 1.00 mmol, 225 mg | [Br-].[Zn+2].[Br-]
product | N-[5-methyl-3′-(1H-tetrazol-5-yl)biphenyl-3-yl]-4-(trifluoromethyl)pyrimidin-2-amine | CC=1C=C(C=C(C1)C1=CC(=CC=C1)C1=NN=NN1)NC1=NC=CC(=N1)C(F)(F)F | C19H14F3N7
